US05061706
b. 1-Hydroxy-8-trifluoromethylquinoxaline-2,3(1H,4H)-dione
A solution of 3-ethoxalylamino-2-nitrobenzotrifluoride (0.28 g, 0.9 mmol) in 30 ml of 96% ethanol was hydrogenated at atmospheric pressure and room temperature in the presence of 28 mg of 5% platinum on carbon for 5 min. The catalyst was removed by filtration, and the filtrate was evaporated to dryness. The residue was triturated with ether to give 77 mg 34%) of the title compound. M.p. 150° C. dec. 1H-NMR (DMSO-d6): 7.20-7.67 (m, 3H, ArH), appr. 12 (very broad s, 1H, NH); IR (KBr): 1700 cm-1 ; MS (m/e): 246 (28%, M+).

reactant | 3-ethoxalylamino-2-nitrobenzotrifluoride | 0.9 mmol, 0.28 g | C(=O)(C(=O)OCC)NC=1C(=C(C=CC1)C(F)(F)F)[N+](=O)[O-] | C11H9F3N2O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | platinum on carbon | 28 mg | [Pt] | Pt
product | 1-Hydroxy-8-trifluoromethylquinoxaline-2,3(1H,4H)-dione | ON1C(C(NC2=CC=CC(=C12)C(F)(F)F)=O)=O | C9H5F3N2O3
